US06451814B1
4-(4-{2-[(2S)2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenoxy)-piperidine-1-carboxylic Acid 4-fluoro-benzylamide
4-[4-(2-Aminoethyl)phenoxy]-N-(4-fluorobenzyl)-1-piperidinecarboxamide (0.56 g, 1.5 mmol), was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.606 g, 1.5 mmol) according to Procedure G (eluant: 50:1 going to 20:1 dichloromethane-methanol) to give the title compound (0.47 g, 0.61 mmol).

reactant | 4-[4-(2-Aminoethyl)phenoxy]-N-(4-fluorobenzyl)-1-piperidinecarboxamide | 1.5 mmol, 0.56 g | NCCC1=CC=C(OC2CCN(CC2)C(=O)NCC2=CC=C(C=C2)F)C=C1 | C21H26FN3O2
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 1.5 mmol, 0.606 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | dichloromethane methanol | ClCCl.CO
product | 4-(4-{2-[(2S)2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenoxy)-piperidine-1-carboxylic Acid 4-fluoro-benzylamide | 0.61 mmol, 0.47 g | FC1=CC=C(CNC(=O)N2CCC(CC2)OC2=CC=C(C=C2)CCNC[C@@H](COC2=CC=C(C=C2)O)O)C=C1 | C30H36FN3O5
